US06552188B2
Synthesis of N-[2-(3,4,5-trimethoxyphenyl)isonicotinoyl]-N′-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]-piperazine
1-[[2-(3,4,5-Trimethoxyphenyl)pyridin-4-yl]methyl]-piperazine (160 mg) and 2-(3,4,5-trimethoxyphenyl)-isonicotinic acid (113 mg) were reacted in the same manner as in Example 56 to obtain the title compound as a free base.

reactant | 1-[[2-(3,4,5-Trimethoxyphenyl)pyridin-4-yl]methyl]-piperazine | 160 mg | COC=1C=C(C=C(C1OC)OC)C1=NC=CC(=C1)CN1CCNCC1 | C19H25N3O3
reactant | 2-(3,4,5-trimethoxyphenyl)-isonicotinic acid | 113 mg | COC=1C=C(C=C(C1OC)OC)C=1C=C(C(=O)O)C=CN1 | C15H15NO5
product | N-[2-(3,4,5-trimethoxyphenyl)isonicotinoyl]-N′-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]-piperazine | COC=1C=C(C=C(C1OC)OC)C=1C=C(C(=O)N2CCN(CC2)CC2=CC(=NC=C2)C2=CC(=C(C(=C2)OC)OC)OC)C=CN1 | C34H38N4O7
